US09107916B2
Preparation 2: 2-Hydrazinylpyridine-4-carbonitrile
To a solution of 2-chloropyridine-4-carbonitrile (20.0 g, 144 mmol) in 1-butanol (150 mL) was added 1 M solution of hydrazine hydrate in THF (303 mL, 303 mmol) dropwise at rt. It was then heated at 60° C. overnight. The mixture was concentrated, and the residue was purified by flash column chromatography (CH2Cl2/MeOH=20/1) to afford the title compound (3.5 g, 18%) as a white solid. [M+H] Calc'd for C6H6N4, 135. Found, 135.

reactant | 2-chloropyridine-4-carbonitrile | 144 mmol, 20.0 g | ClC1=NC=CC(=C1)C#N | C6H3ClN2
reactant | hydrazine hydrate | O.NN
reactant | THF | 303 mmol, 303 mL | C1CCOC1 | C4H8O
solvent | 1-butanol | 150 mL | C(CCC)O | C4H10O
product | 2-Hydrazinylpyridine-4-carbonitrile | 3.5 g, 18% | N(N)C1=NC=CC(=C1)C#N | C6H6N4
